### PR TITLE
feat(ErdosProblems): 494

### LINKED ISSUE #755: Erdős Problem 494
### What is the conjecture
    
https://www.erdosproblems.com/494

  If $A\subset \mathbb{C}$ is a finite set and $k\geq 1$ then let
$$A_k = \\{ z_1+\cdots+z_k : z_i\in A\textrm{ distinct}\\}.$$
For $k>2$ does the multiset $A_k$ (together with the size of $A$) uniquely determine the set $A$?
  

Status: solved

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Close #755

### CODE REVIEW

File: FormalConjectures/ErdosProblems/494.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+
+open Filter
+namespace Erdos494
+
+/--
+For a finite set $A \subset \mathbb{C}$ and $k \ge 1$, define $A_k$ as a multiset consisting of
+all sums of $k$ distinct elements of $A$.
+-/
+noncomputable def erdos494_A_k (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
+  ((A.powersetCard k).val.map (fun s => s.sum id))
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
  A.powersetCard k).val.map fun s => s.sum id
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+  - [SeSt58] Selfridge, J. L. and Straus, E., On the determination of numbers by their sums
+      of a fixed order. Pacific Journal of Math. (1958), 847-856.
+  - [Er61] Erdős, Paul, Some unsolved problems. Magyar Tud. Akad. Mat. Kutató Int. Közl. (1961),
+      221-254.
+  - [GFS62] Gordon, B. and Fraenkel, A. S. and Straus, E. G., On the determination of sets
+      by the sets of sums of a certain order. Pacific J. Math. (1962), 187--196.
+-/
+
+open Filter
+namespace Erdos494
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean:34]:
```suggestion

namespace Erdos494
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+
+/--
+For a finite set $A \subset \mathbb{C}$ and $k \ge 1$, define $A_k$ as a multiset consisting of
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
For a finite set $A \subset \mathbb{C}$ and $k \ge 1$, define $A_k$ as the multiset consisting of
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+all sums of $k$ distinct elements of $A$.
+-/
+noncomputable def erdos494_A_k (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
+  ((A.powersetCard k).val.map (fun s => s.sum id))
+
+def erdos_494_unique (k : ℕ) (card : ℕ) :=
+  ∀ A B : Finset ℂ, A.card = card → A.card = B.card → erdos494_A_k A k = erdos494_A_k B k → A = B
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
  ∀ A B : Finset ℂ, A.card = card → B.card = card → erdos494_A_k A k = erdos494_A_k B k → A = B
```
feels more natural

File: FormalConjectures/ErdosProblems/494.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+-/
+
+open Filter
+namespace Erdos494
+
+/--
+For a finite set $A \subset \mathbb{C}$ and $k \ge 1$, define $A_k$ as a multiset consisting of
+all sums of $k$ distinct elements of $A$.
+-/
+noncomputable def erdos494_A_k (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
noncomputable def sumMultiset (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
```
maybe?

File: FormalConjectures/ErdosProblems/494.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+  ∀ A B : Finset ℂ, A.card = card → A.card = B.card → erdos494_A_k A k = erdos494_A_k B k → A = B
+
+/--
+Selfridge and Straus [SeSt58] showed that the conjecture is true when $k = 2$ and
+$|A| \ne 2^l$ for $l \ge 0$.
+They also gave counterexamples when $k = 2$ and $|A| = 2^l$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_494.variant.k_eq_2_card_not_pow_two :
+    ∀ card : ℕ, (¬∃ l : ℕ, card = 2 ^ l) → erdos_494_unique 2 card := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
    ∀ card : ℕ, (∀ l : ℕ, card \ne 2 ^ l) → erdos_494_unique 2 card := by
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+    ∀ k : ℕ, 2 < k → ¬erdos_494_unique k (2 * k) := by
+  sorry
+
+/--
+Gordon, Fraenkel, and Straus [GRS62] proved that the claim is true for all $k > 2$ when
+$|A|$ is sufficiently large.
+-/
+@[category research solved, AMS 5]
+theorem erdos_494.variant.gordon_fraenkel_straus :
+    ∀ k : ℕ, 2 < k → (∀ᶠ card in atTop, erdos_494_unique k card) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
    ∀ k : ℕ, 2 < k → ∀ᶠ card in atTop, erdos_494_unique k card := by
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+Counterexample (by Steinerberger): consider $k = 3$ and let
+$A = \{1, \zeta_6, \zeta_6^2, \zeta_6^4\}$ and $B = \{1, \zeta_6^2, \zeta_6^3, \zeta_6^4\}$.
+-/
+noncomputable def prodMultiset (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
+  ((A.powersetCard k).val.map (fun s => s.prod id))
+
+@[category research solved, AMS 5]
+theorem erdos_494.variant.product :
+    ∃ (A B : Finset ℂ), A.card = B.card ∧ prodMultiset A 3 = prodMultiset B 3 ∧
+    A ≠ B := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
      A ≠ B := by
```

File: FormalConjectures/ErdosProblems/494.lean [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+namespace Erdos494
+
+/--
+For a finite set $A \subset \mathbb{C}$ and $k \ge 1$, define $A_k$ as the multiset consisting of
+all sums of $k$ distinct elements of $A$.
+-/
+noncomputable def sumMultiset (A : Finset ℂ) (k : ℕ) : Multiset ℂ :=
+  (A.powersetCard k).val.map fun s => s.sum id
+
+def erdos_494_unique (k : ℕ) (card : ℕ) :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/494.lean]:
```suggestion
def Erdos494Unique (k card : ℕ) : Prop :=
```
since it's a Prop
